US09340555B2
To a stirred suspension of 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid (1.0 g, 2.2 mmol) in 20 ml of anhydrous tetrahydrofuran were added HATU (1.0 g, 2.6 mmol) and N,N-diisopropylethylamine (620 mg, 4.8 mmol). The mixture was heated at 60° C. for 20 minutes, followed by addition of 1-amino-3,3-diethoxypropane (388 mg, 2.6 mmol). The mixture was heated at 60° C. for another 30 minutes, cooled to room temperature and poured into 100 ml of water with vigorous stirring. The precipitates were filtered, washed with water and dried in vacuo to give N-(3,3-diethoxypropyl)-7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide as off-white solid. Yield: 1.23 g, 95%.

reactant | 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid | 2.2 mmol, 1.0 g | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C22H15F2N3O4S
reactant | HATU | 2.6 mmol, 1.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 4.8 mmol, 620 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-amino-3,3-diethoxypropane | 2.6 mmol, 388 mg | NCCC(OCC)OCC | C7H17NO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | N-(3,3-diethoxypropyl)-7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide | C(C)OC(CCNC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)F)OCC | C29H30F2N4O5S
